US08022223B2
Step B: Preparation of 5-(benzyloxy)pyridin-2-amine hydrochloride:
To a nitrogen purged solution of mL Pd2(dba)3 (10.19 g, 11.12 mmol), 5-(benzyloxy)-2-chloropyridine (48.87 g, 222.5 mmol), (2-diphenyl)dicyclohexyl-phosphine (7.797 g, 22.25 mmol) and THF (700 mL) was added lithium hexamethyl disilazide (267.0 mL, 267.0 mmol). The reaction was heated at 65° C. overnight and cooled to ambient temperature. 1M HCl (250 mL) was added and stirred for 30 minutes. Saturated sodium bicarbonate was added slowly. The mixture was extracted several times with CH2Cl2, dried, filtered, and concentrated to give the title compound (52.1 g, 98.94% yield).

reactant | 5-(benzyloxy)-2-chloropyridine | 222.5 mmol, 48.87 g | C(C1=CC=CC=C1)OC=1C=CC(=NC1)Cl | C12H10ClNO
reactant | lithium hexamethyl disilazide | 267.0 mmol, 267.0 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | HCl | 1M, 250 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | Pd2(dba)3 | 11.12 mmol, 10.19 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | THF | 700 mL | C1CCOC1 | C4H8O
product | 5-(benzyloxy)pyridin-2-amine hydrochloride | 52.1 g, 98.94% yield | Cl.C(C1=CC=CC=C1)OC=1C=CC(=NC1)N | InChI=1S/C12H12N2O.ClH/c13-12-7-6-11(8-14-12)15-9-10-4-2-1-3-5-10;/h1-8H,9H2,(H2,13,14);1H
